US06177440B1
40% Methanolic Triton B (0.086 mL, 0.19 mM) was added to a solution of the 9-[(3-fluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (51.9 mg, 0.155 mM) in 3 mL DMF at room temperature. After 3 minutes, t-butyl bromoacetate (87.8 mg, 0.44 mM) was added and the resultant mixture stirred at room temperature for 5 hours. The mixture was diluted with ethyl acetate, washed four times with H2O, and saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 44.0 mg (63%) of the {9-[(3-fluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester as a white solid. 1H NMR (DMSO-d6) δ 7.6 (d, 1H, J=8 Hz), 7.5-6.8 (m, 10H), 6.55 (d, 1H, J=8 Hz), 5.7 (s, 2H), 4.8 (s, 2H), and 1.45 (s, 9H). IR (CHCl3, cm−1) 3450, 3400, 1746, 1674, 1592, 1457, 1369, and 1151. MS (FD) m/e 448.

reactant | 9-[(3-fluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.155 mM, 51.9 mg | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C20H15FN2O2
reactant | t-butyl bromoacetate | 0.44 mM, 87.8 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(3-fluorophenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester | 44.0 mg, 63% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC(C)(C)C)C(N)=O | C26H25FN2O4
